US05854249
The procedure described in Example 12 was followed with 11.62 g (27 mmol) of N,N-diethyl-4-(3-(tert-butyldimethylsilyloxy)-α-chlorobenzyl) benzamide, prepared as in Example 11, and 9.42 g (82 mmol) of (-)-(2R,5R)-2,5-dimethylpiperazine, prepared from D-Ala-D-Ala-diketopiperazine (Bachem Chemicals, Philadelphia, Pa.) as described by Jung and Rohloff (J. Org. Chem. 50, 4909-13(1985)). The crude product was dissolved in 100 mL of acetonitrile and 8.07 g (40 mmol) of tetraethylammonium fluoride hydrate was added. The solution was stirred at room temperature overnight. The solvent was evaporated, and the residue was treated with 100 mL of aqueous 1N hydrochloric acid and extracted with 200 mL of diethyl ether. The aqueous layer was adjusted to pH 8 with aqueous 5M sodium hydroxide, and extracted with dichloromethane. The organic layers were combined, dried over sodium sulfate, and evaporated to give 8.03 g (75%) of N,N-diethyl-4-(3-hydroxy-α-((2R, 5R)-2,5-dimethyl-1-piperazinyl)benzyl)-benzamide as a light brown solid.

reactant | N,N-diethyl-4-(3-(tert-butyldimethylsilyloxy)-α-chlorobenzyl) benzamide | 27 mmol, 11.62 g | C(C)N(C(C1=CC=C(C=C1)C(C1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C)Cl)=O)CC | C24H34ClNO2Si
reactant | (-)-(2R,5R)-2,5-dimethylpiperazine | 82 mmol, 9.42 g | C[C@H]1NC[C@H](NC1)C | C6H14N2
reactant | D-Ala-D-Ala diketopiperazine | N[C@H](C)C(=O)N[C@H](C)C(=O)O.O=C1C(NCCN1)=O
reactant | tetraethylammonium fluoride hydrate | 40 mmol, 8.07 g | O.[F-].C(C)[N+](CC)(CC)CC
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | N,N-diethyl-4-(3-hydroxy-α-((2R, 5R)-2,5-dimethyl-1-piperazinyl)benzyl)-benzamide | 8.03 g, 75% | C(C)N(C(C1=CC=C(C=C1)C(C1=CC(=CC=C1)O)N1[C@@H](CN[C@@H](C1)C)C)=O)CC | C24H33N3O2
